US06977262B2
Ethyl 4-(2-bromophenyl)-4,7-dihydro-6-isopropyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 2-bromobenzaldehyde, 3-aminopyrazole and ethyl isobutyrylacetate in the same manner as in Example 275.

reactant | 2-bromobenzaldehyde | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl isobutyrylacetate | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
product | Ethyl 4-(2-bromophenyl)-4,7-dihydro-6-isopropyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | BrC1=C(C=CC=C1)C1C=2C(NC(=C1C(=O)OCC)C(C)C)=NNC2 | C18H20BrN3O2
